US08563565B2
(2) Synthesis of 7-[2,6-dimethyl-4-(tetrahydro-2H-pyran-4-yl)phenyl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
10% palladium carbon (50% wet, 15 mg) was added to a solution of 7-[4-(3,6-dihydro-2H-pyran-4-yl)-2,6-dimethylphenyl]-5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (44 mg) in ethanol (2 mL)-THF (2 mL). The reaction mixture was stirred at mom temperature for four hours and 35 minutes in a hydrogen atmosphere. The catalyst was removed from the reaction mixture by filtration, and the filtrate was then concentrated under reduced pressure. TFA (1.5 mL) was added to the resulting residue. The reaction mixture was stirred at 60° C. for 14 hours. The reaction mixture was returned to room temperature, and the reaction mixture was then concentrated under reduced pressure. Chloroform and a saturated aqueous sodium bicarbonate solution were added to the residue, and the organic layer was separated. The aqueous layer was re-extracted with chloroform. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform 100%, then ethyl acetate 100%). The target fraction was collected and concentrated. Ethyl acetate and MTBE were added to the resulting residue. The precipitated solid was collected by filtration and dried under reduced pressure to give the title compound (14.8 mg).

reactant | 7-[4-(3,6-dihydro-2H-pyran-4-yl)-2,6-dimethylphenyl]-5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 44 mg | O1CCC(=CC1)C1=CC(=C(C(=C1)C)C=1C=CC=2C3=C(C(N(C2C1)CC1=C(C=C(C=C1)OC)OC)=O)C=NN3C3CCOCC3)C | C37H39N3O5
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium carbon | 15 mg | [C].[Pd]
product | 7-[2,6-dimethyl-4-(tetrahydro-2H-pyran-4-yl)phenyl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 14.8 mg | CC1=C(C(=CC(=C1)C1CCOCC1)C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3C3CCOCC3 | C28H31N3O3
